US04714619
D-Alanine Isopropyl Amide (26)
N-Benzyloxycarbonyl-D-alanine isopropyl amide (1.322 g, 5 mmol) is hydrogenated in 20 mL MeOH over 100 mg 10% Pd/C in a Parr Apparatus at 40 psi and room temperature until no more hydrogen is consumed. The methanolic suspension is filtered through a Celite pad to remove the catalyst and the filtrate is evaporated to dryness. The desired product is purified by conversion into a crystalline amino acid amide salt.

reactant | N-Benzyloxycarbonyl-D-alanine isopropyl amide | 5 mmol, 1.322 g | C(C)(C)NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O | C14H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | D-Alanine Isopropyl Amide | C(C)(C)NC([C@H](N)C)=O | C6H14N2O
